US07199124B2
[5-(2-fluoro-4-pyridyl)-4-(3-methylphenyl)-1,3-thiazol-2-yl]amine
To a mixture of 2-bromo-2-(2-fluoro-4-pyridyl)-1-(3-methylphenyl)ethanone hydrobromide [synthesized according to Reference Example 19 using 2-(2-fluoro-4-pyridyl)-1-(3-methylphenyl)ethanbne (8.46 g, 36.9 mmol) instead of 2-(2-tert-butoxycarbonylamino-4-pyridyl)-1-(3methylphenyl)ethanone] and thiourea (3.03 g, 39.8 mmol) in acetonitrile (50 mL) was added triethylamine (5.2 mL, 37.3 mmol), and the mixture was stirred at 80° C. for 2 hrs. Aqueous sodium hydrogen carbonate solution was poured into the reaction mixture and the precipitated solids were collected by filtration. The obtained solid was washed with water and dried. Crude crystals were recrystallized from ethanol to give the title compound (3.67 g, yield 35%).

reactant | 2-bromo-2-(2-fluoro-4-pyridyl)-1-(3-methylphenyl)ethanone hydrobromide | Br.BrC(C(=O)C1=CC(=CC=C1)C)C1=CC(=NC=C1)F
reactant | thiourea | 39.8 mmol, 3.03 g | NC(=S)N | CH4N2S
reactant | triethylamine | 37.3 mmol, 5.2 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | [5-(2-fluoro-4-pyridyl)-4-(3-methylphenyl)-1,3-thiazol-2-yl]amine | 3.67 g, yield 35% | FC1=NC=CC(=C1)C1=C(N=C(S1)N)C1=CC(=CC=C1)C | C15H12FN3S
